US09062092B2
Compound 100a. 2-Allyloxy-2-methyl-propionic acid ethyl ester
A solution of 2-hydroxy-2-methyl-propionic acid ethyl ester (2.64 g, 2.7 mL, 20 mmol) in N,N-dimethylformamide (20 mL) was stirred at 0° C. under nitrogen. Sodium hydride (60% dispersion in oil, 880 mg, 22 mmol) was added and the reaction mixture was stirred at 0° C. for 5 min. Allyl bromide (2.18 g, 1.6 mL, 18 mmol) was added and the reaction mixture was stirred at 0° C. for 30 min and then at room temperature for 18 h. The reaction mixture was cooled to 0° C. and saturated ammonium chloride solution was cautiously added to quench the reaction. Diethyl ether was added and the organic layer was separated, washed with water (3×) and brine. The organic solution was filtered through a hydrophobic frit and the filtrate was evaporated. The residue was purified by silica gel chromatography using a gradient of pentane/diethyl ether 12:1 to 4:1 to afford the title compound (2.33 g, 67%) as an clear oil. 1H NMR (300 MHz, CDCl3) δ 1.31 (t, J=7.1 Hz, 3H), 1.47 (s, 6H), 3.95-3.98 (m, 2H), 4.21 (q, J=7.1 Hz, 2H), 5.15-5.20 (m, 1H), 5.27-5.39 (m, 1H), 5.90-6.03 (m, 1H). LCMS (m/z) 195.2 [M+Na], Tr=2.24 min.

reactant | 2-hydroxy-2-methyl-propionic acid ethyl ester | 20 mmol, 2.7 mL, 2.64 g | C(C)OC(C(C)(C)O)=O | C6H12O3
reactant | Sodium hydride | 22 mmol, 880 mg | [H-].[Na+]
reactant | Allyl bromide | 18 mmol, 1.6 mL, 2.18 g | C(C=C)Br | C3H5Br
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | Diethyl ether | C(C)OCC | C4H10O
product | 2-Allyloxy-2-methyl-propionic acid ethyl ester | 2.33 g, 67% | C(C)OC(C(C)(C)OCC=C)=O | C9H16O3
